US06982274B2
5-Bromo-4-methoxy-3-naphthalen-2-yl-1H-indazole
A total of 1.63 g of (3-bromo-6-fluoro-2-methoxy-phenyl)-naphthalen-2-yl-methanone was dissolved in 15 ml of pyridine, 2.2 ml of hydrazine monohydrate was added, followed by stirring at 100° C. for 6 hours. Water was added to the reaction mixture, and then it was extracted with ethyl acetate for two times. The organic layer was sequentially washed with 1 N hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was removed by distillation. Then, the resulting crystals were washed with hexane once and dried in vacuo, to give 0.923 g of the title compound as brown crystals.

reactant | (3-bromo-6-fluoro-2-methoxy-phenyl)-naphthalen-2-yl-methanone | 1.63 g | BrC=1C(=C(C(=CC1)F)C(=O)C1=CC2=CC=CC=C2C=C1)OC | C18H12BrFO2
reactant | hydrazine monohydrate | 2.2 ml | O.NN
reactant | Water | O | H2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 5-Bromo-4-methoxy-3-naphthalen-2-yl-1H-indazole | 0.923 g | BrC=1C(=C2C(=NNC2=CC1)C1=CC2=CC=CC=C2C=C1)OC | C18H13BrN2O
